US07667041B2
Sodium hydride (containing mineral oil at 40%, 37.8 mg) was added to a solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)-benzylidene)valeric acid (7-morpholin-4-yl-1,2,3,4-tetrahydronaphthalen-1-yl)amide (213 mg) in DMF (5.0 mL) at 0° C., and the reaction solution was stirred for 30 minutes. After confirming that the raw materials disappeared, water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:heptane-ethyl acetate system→ethyl acetate-methanol system) to obtain 195 mg of (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-1-(7-morpholin-4-yl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-2-one as a racemate.

reactant | Sodium hydride | 37.8 mg | [H-].[Na+]
reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)-benzylidene)valeric acid (7-morpholin-4-yl-1,2,3,4-tetrahydronaphthalen-1-yl)amide | 213 mg | N1(CCOCC1)C1=CC=C2CCCC(C2=C1)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C31H37ClN4O3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | (E)-3-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)-1-(7-morpholin-4-yl-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-2-one | 195 mg | COC=1C=C(\C=C/2\C(N(CCC2)C2CCCC3=CC=C(C=C23)N2CCOCC2)=O)C=CC1N1C=NC(=C1)C | C31H36N4O3
